US08470831B2
2-Chloro-3-hydroxy-4-methoxybenzaldehyde (1.86 g, 10 mmol) was dissolved in pyridine (7 ml), malonic acid (1.25 g, 10 mmol) and piperidine (0.1 ml) were added and the mixture was heated at 100° C. for 2 hrs, then it was poured in 100 ml HCl 1N and extracted with AcOEt. This was dried and evaporated, and the residue was triturated with diethyl ether and filtered, giving 2.10 g of (E)-3-(2-chloro-3-hydroxy-4-methoxy-phenyl)-acrylic acid as a white solid, which was used without further purification.

reactant | 2-Chloro-3-hydroxy-4-methoxybenzaldehyde | 10 mmol, 1.86 g | ClC1=C(C=O)C=CC(=C1O)OC | C8H7ClO3
reactant | malonic acid | 10 mmol, 1.25 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N, 100 ml | Cl | ClH
product | (E)-3-(2-chloro-3-hydroxy-4-methoxy-phenyl)-acrylic acid | 2.10 g | ClC1=C(C=CC(=C1O)OC)/C=C/C(=O)O | C10H9ClO4
